US07544695B2
Preparation of tert-Butyl (3-Amino-1-phenyl-1H-pyrazol-4-yl)carbamate (I)
A solution of 4-nitro-1-phenyl-1H-pyrazole-3-carboxylic acid (20.0 g, 85.8 mmol), triethylamine (36.0 mL, 257.3 mmol), and diphenylphosphoryl azide (37.8 g, 137.2 mmol) in dioxane (400 mL) and tert-butanol (200 mL) was heated to reflux for 16 hours. The reaction was evaporated to dryness in vacuo, diluted with methylene chloride (400 mL) and treated with trifluoroacetic acid (128 g, 857.7 mmol). The solution was stirred at ambient temperature for 16 hours. The reaction was evaporated in vacuo and the resulting oil diluted with hexanes (750 mL), ethyl acetate (150 mL) and methylene chloride (100 mL). The solids were filtered, washed with above solvent system (hexanes:ethyl acetate;methylene chloride 75:15:10), and dried to give the desired product as yellow solid. 1H NMR (CDCl3) δ 8.43 (s, 1H), 7.62 (m, 2H), 7.48 (m, 2H), 7.37 (m, 1H).

reactant | 4-nitro-1-phenyl-1H-pyrazole-3-carboxylic acid | 85.8 mmol, 20.0 g | [N+](=O)([O-])C=1C(=NN(C1)C1=CC=CC=C1)C(=O)O | C10H7N3O4
reactant | triethylamine | 257.3 mmol, 36.0 mL | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 137.2 mmol, 37.8 g | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | trifluoroacetic acid | 857.7 mmol, 128 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | tert-butanol | 200 mL | C(C)(C)(C)O | C4H10O
solvent | dioxane | 400 mL | O1CCOCC1 | C4H8O2
product | tert-Butyl (3-Amino-1-phenyl-1H-pyrazol-4-yl)carbamate | NC1=NN(C=C1NC(OC(C)(C)C)=O)C1=CC=CC=C1 | C14H18N4O2
